US07906517B2
Ethyl 4-{2-[[2-(benzyl-ethyl-amino)-5-trifluoromethyl-benzyl]-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (4.07 g) is dissolved in ethanol (60 ml), and thereto is added 10% palladium-carbon (500 mg) and the mixture is stirred under hydrogen atmosphere at room temperature for 30 minutes. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) to give ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-ethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (3.1 g). MS (m/z): 653 [M+H]+

reactant | Ethyl 4-{2-[[2-(benzyl-ethyl-amino)-5-trifluoromethyl-benzyl]-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 4.07 g | C(C1=CC=CC=C1)N(C1=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)CC | C36H35F9N4O3
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-ethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 3.1 g | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)NCC)C=C(C1)C(F)(F)F)(F)F | C29H29F9N4O3
